Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Macrobid / red dye / Bactrim
 
Attending: ___
 
Chief Complaint:
Abdominal Pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Patient is a ___ year old female who presented to the emergency 
department with complaints of periumbilical pain and emesis with 
belching. She reported she had been eating normally prior to 
arrival to the hospital and was having daily bowel movements. Of 
note, patient had colposcopy performed for HPV ___ with
endocervical curettage. 
 
Past Medical History:
PMH: HTN, Depression, Endometriosis, GERD, OA
PSH: Lap hysterectomy for endometriosis, lap chole
Meds: Lexipro, advair, hctz, montelukast, nabumetone, tramadol
 
Social History:
___
Family History:
Maternal aunt with colon cancer.
 
Physical Exam:
PHYSICAL EXAMINATION ON ADMISSION:
Temp: 99.1, HR: 94, BP: 176/69, Resp: 18, O(2)Sat: 99 RA
 
Constitutional:   Constitutional: Sitting up in bed,
moderately uncomfortable appearing
Head / Eyes: NC/AT
ENT: OP WNL
Resp: CTAB
Cards: RRR. s1,s2. no MRG.
Abd: S/ND, R side diffusely tender, no guarding or rebound
Skin: no rash, warm and dry
Ext: No c/c/e
Neuro: speech fluent
Psych: normal mood

PHYSICAL EXAMINATION ON DISCHARGE: ___
VS: Temp: 99.5, HR: 74, BP: 123/70, Resp: 12, O(2)Sat: 97 RA
A&Ox3. NAD. 
RRR. LS CTA Bilat.
Abd Soft Non tender without guarding or rebound. BS x 4.
Skin intact, warm and dry.
PPP without ___ edema.  

 
Pertinent Results:
CT of Abdomen and Pelvis with contrast on ___:
Small-bowel obstruction with smooth transition in the right 
lower quadrant.
Mucosal enhancement and wall thickening spanning approximately 
10 cm in the
leading segment of obstructed loops concerning for early bowel 
ischemia.  Small amount of free mesenteric fluid.  A small 
locule of air in the anterior aspect of the liver (02:20 is 
unclear if represents free intraperitoneal air.
2. Long segment of mild pericolic fat stranding in the ascending 
colon.  While patient has colonic diverticulosis there isn't a 
discrete inflamed diverticula and the segment is longer than 
expected for diverticulitis.  This could represent colitis of 
inflammatory/infection/ischemia.
3. Mild intrahepatic biliary dilation status post 
cholecystectomy.  No priors to compare.  Correlate with hepatic 
function.

ABDOMINAL x-ray with gastrografin ___:
Multiple air-fluid levels with air and contrast filled loops of 
small and
large bowel with contrast terminating in the rectum.

LABS:
___ 06:38AM BLOOD WBC-5.4 RBC-3.54* Hgb-10.2* Hct-32.3* 
MCV-91 MCH-28.8 MCHC-31.6* RDW-13.6 RDWSD-46.2 Plt ___
___ 10:12PM BLOOD WBC-10.6* RBC-4.49 Hgb-12.9 Hct-40.5 
MCV-90 MCH-28.7 MCHC-31.9* RDW-13.6 RDWSD-44.6 Plt ___
___ 10:12PM BLOOD Neuts-71.7* ___ Monos-7.6 
Eos-0.8* Baso-0.5 Im ___ AbsNeut-7.60* AbsLymp-2.03 
AbsMono-0.81* AbsEos-0.09 AbsBaso-0.05
___ 06:38AM BLOOD Plt ___
___ 10:12PM BLOOD Plt ___
___ 06:38AM BLOOD Glucose-97 UreaN-10 Creat-0.5 Na-145 
K-3.8 Cl-109* HCO3-27 AnGap-9*
___ 10:12PM BLOOD Glucose-137* UreaN-17 Creat-0.7 Na-142 
K-4.1 Cl-101 HCO3-27 AnGap-14
___ 10:12PM BLOOD ALT-14 AST-21 AlkPhos-70 TotBili-0.2
___ 10:12PM BLOOD Lipase-34
___ 06:38AM BLOOD Calcium-8.5 Phos-3.1 Mg-1.9
___ 10:12PM BLOOD Albumin-4.6
___ 10:15PM BLOOD Lactate-1.___ year old female who presented to the emergency department 
with complaints of periumbilical pain and emesis with belching. 
She reported she had been eating normally prior to arrival to 
the hospital and was having daily bowel movements. 

Upon admission, the patient was made NPO, given intravenous 
fluids, and underwent imaging.  Abdominal cat scan was completed 
and suggestive of small bowel obstruction.  The patient was 
placed on bowel rest.  Repeat abdominal x-ray was completed with 
use of gastrograffin which showed multiple air-fluid levels with 
air and contrast filled loops of small and large bowel with 
contrast terminating in the rectum. The patient reported 
diarrhea following oral contrast and return of bowel function. 

The patient resumed a regular diet.  She was voiding without 
difficulty and had return of bowel function.  Her vital signs 
were stable and she was afebrile.  Discharge instructions were 
reviewed and questions answered.  The patient was discharged 
home with instructions to follow-up with Dr. ___. 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. OLANZapine 5 mg PO QHS:PRN sleep 
2. Montelukast 10 mg PO DAILY 
3. TraMADol 50 mg PO DAILY:PRN Pain - Moderate 
4. Fluticasone Propionate 110mcg 2 PUFF IH BID 
5. Nabumetone 500 mg PO BID 
6. Escitalopram Oxalate 20 mg PO DAILY 
7. Hydrochlorothiazide 12.5 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild/Fever 
Please limit to 3000mg in 24 hour period.  
2.  Famotidine 20 mg PO Q12H 
RX *famotidine [Acid Reducer (famotidine)] 20 mg 1 tablet(s) by 
mouth twice a day Disp #*14 Tablet Refills:*0 
3.  Escitalopram Oxalate 20 mg PO DAILY  
4.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
5.  Hydrochlorothiazide 12.5 mg PO DAILY  
6.  Montelukast 10 mg PO DAILY  
7.  Nabumetone 500 mg PO BID  
8.  TraMADol 50 mg PO DAILY:PRN Pain - Moderate  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Abdominal Pain.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to ___ for 
abdominal pain with possible small bowel syndrome. You are 
recovering well and are now ready for discharge. Please follow 
the instructions below to continue your recovery: 

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following: 
*You experience new chest pain, pressure, squeezing or 
tightness. 
*New or worsening cough, shortness of breath, or wheeze. 
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing. 
*You see blood or dark/black material when you vomit or have a 
bowel movement. 
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge. 
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back. 
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius. 
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed. 

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon. Avoid driving or operating heavy machinery while taking 
pain medications.

 
Followup Instructions:
___